US09328110B2
A solution of N4-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]quinoline-3,4-diamine (6.20 g, 21.6 mmol), triethyl orthoacetate (3.10 g, 25.8 mmol) and pyridinium p-toluenesulfonate (0.18 g, 0.71 mmol) in toluene (250 mL) was heated at reflux under a Dean-Stark trap for 2 hours, periodically draining off the distillate and adding fresh toluene to the reaction mixture. The solution was concentrated under reduced pressure, and the residue was taken up in dichloromethane (150 mL), washed successively with a saturated aqueous sodium bicarbonate solution and water (100 mL each), dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinoline (6.70 g) as a dark oil that was used directly in the next step without further purification.

reactant | N4-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]quinoline-3,4-diamine | 21.6 mmol, 6.20 g | CC1(OCCO1)CCCNC1=C(C=NC2=CC=CC=C12)N | C16H21N3O2
reactant | triethyl orthoacetate | 25.8 mmol, 3.10 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | pyridinium p-toluenesulfonate | 0.71 mmol, 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinoline | 6.70 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC1(OCCO1)C | C18H21N3O2
